### PR TITLE
[Merged by Bors] - feat: slim check

### PR DESCRIPTION
**Pull request by hargoniX**
An absolute minimal port of Lean 3's slim_check, not featuring stuff like subtypes, existential quantifiers etc. But the basic infrastructure to set all of this up and some basic instances already as well.

The `PhantomFunction` was introduced to avoid noncomputable instances since `SizeOf` is not computable but we need to store it as a field in `SampleableExt` so we work around this by defining a `PhantomFunction` which is guaranteed to be eliminated by the compiler during code generation. I do however believe that this is not the right file for it to live in?

### CODE REVIEW

File: Mathlib/Testing/SlimCheck/Sampleable.lean [hunk 1]
```diff
@@ -0,0 +1,324 @@
...
+
+/-- `Sampleable α` provides ways of creating examples of type `α`. -/
+class Sampleable (α : Type u) [Repr α] where
+  sample {} : Gen α
+
+/-- Given an example `x : α`, `Shrinkable α` gives us a way to shrink it
+and suggest simpler examples. -/
+class Shrinkable (α : Type u) [phSz : PhantomSizeOf α] where
+
+  shrink : @ShrinkFn α phSz := λ _ => []
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Sampleable.lean:155]:
```suggestion
class Shrinkable (α : Type u) extends WellFoundedRelation α where
  shrink : ShrinkFn α := λ _ => []

attribute [instance low-1] Shrinkable.toWellFoundedRelation

```

Given that SizeOf/WellFoundedRelation instances have so many non-commuting diamonds, it's probably better to bundle them.  (Otherwise whenever you write `[Shrinkable (Nat × Nat)]`, Lean requires that `PhantomSizeOf (Nat × Nat)` produces exactly the same instance as it did in the instance declaration of `Shrinkable (α × β)`.  And these can easily be different due to all the overlapping instances.)

File: Mathlib/Testing/SlimCheck/Sampleable.lean [hunk 2]
```diff
@@ -0,0 +1,324 @@
...
+    simp [sizeOfPhantom_eq_SizeOf]
+    simp [sizeOfPhantom_eq_SizeOf] at h
+    exact Nat.succ_lt_succ $ lt_of_le_of_lt (Nat.mod_le _ _) h})
+
+instance Fin.shrinkable {n : Nat} : Shrinkable (Fin n.succ) where
+  shrink := Fin.shrink
+
+abbrev Int.sizeOfAbs : SizeOf Int := ⟨Int.natAbs⟩
+
+attribute [local instance] Int.sizeOfAbs
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Sampleable.lean:269]:
```suggestion
@[local instance]
def Int.sizeOfAbs : SizeOf Int := ⟨Int.natAbs⟩
```

File: Mathlib/Testing/SlimCheck/Sampleable.lean [hunk 3]
```diff
@@ -0,0 +1,324 @@
...
+
+/-- `Int.shrink` operates like `Nat.shrink` but also includes the negative variants. -/
+def Int.shrink (n : Int) : List { y : Int // sizeOfPhantom.sizeOf y < sizeOfPhantom.sizeOf n } :=
+  Nat.shrink n.natAbs |>.map λ ⟨x, h⟩ => ⟨-x, (by rw [sizeOfPhantom_eq_SizeOf] at *; simp only [SizeOf.sizeOf]; rw [Int.natAbs_neg]; exact h)⟩
+
+instance Int.shrinkable : Shrinkable Int where
+  shrink := Int.shrink
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Sampleable.lean:276]:
```suggestion
/-- `Int.shrinkable` operates like `Nat.shrinkable` but also includes the negative variants. -/
instance Int.shrinkable : Shrinkable Int where
  shrink n :=
    Nat.shrink n.natAbs |>.map λ ⟨x, h⟩ => ⟨-x, (by rw [sizeOfPhantom_eq_SizeOf] at *; simp only [SizeOf.sizeOf]; rw [Int.natAbs_neg]; exact h)⟩
```

I don't think we need to keep the separate definitions if we already have the instance.

File: Mathlib/Testing/SlimCheck/Sampleable.lean [hunk 4]
```diff
@@ -0,0 +1,324 @@
...
+  shrink : @ShrinkFn α phSz := λ _ => []
+/-- `SampleableExt` generalizes the behavior of `Sampleable` and `Shrinkable`
+and makes it possible to express instances for types that
+do not lend themselves to introspection, such as `ℕ → ℕ`.
+If we test a quantification over functions the
+counter-examples cannot be shrunken or printed meaningfully.
+For that purpose, `SampleableExt` provides a proxy representation
+`proxy` that can be printed and shrunken as well
+as interpreted (using `interp`) as an object of the right type. -/
+class SampleableExt (α : Sort u) where
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Sampleable.lean:164]: I realize that `SampleableExt` is already in the Lean 3 version so it's fine to just keep it as it is.

But I'm really not sure if this is a good API.  Any container type needs to have (duplicate?) Sampleable instances (this PR is missing `SampleableExt (α × β)`).  It would seem simpler to me to remove `Sampleable` and `Shrinkable` and only have `SampleableExt`.

File: Mathlib/Testing/SlimCheck/Sampleable.lean [hunk 5]
```diff
@@ -0,0 +1,324 @@
...
+  proxy := Bool
+  phSz := inferInstance
+  samp := inferInstance
+  shrink := inferInstance
+  interp := Coe.coe
+
+end Shrinkers
+
+/-- An annotation for values that should never get shrinked. -/
+abbrev NoShrink (α : Type u) := α
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Sampleable.lean:301]:
```suggestion
def NoShrink (α : Type u) := α
```

Otherwise type-class search sees right through it.

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 6]
```diff
@@ -0,0 +1,516 @@
...
+  maxSize : Nat := 100
+  numRetries : Nat := 10
+  traceDiscarded : Bool := false
+  traceSuccesses : Bool := false
+  traceShrink : Bool := false
+  traceShrinkCandidates : Bool := false
+  randomSeed : Option Nat := none
+  quiet : Bool := false
+  deriving Inhabited
+/--
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:111]:
```suggestion
  deriving Inhabited

/--
```

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 7]
```diff
@@ -0,0 +1,516 @@
...
+     a counter-example to `p`; the strings specify values for the relevant variables.
+     `failure h vs n` also carries a proof that `p` does not hold. This way, we can
+     guarantee that there will be no false positive. The last component, `n`,
+     is the number of times that the counter-example was shrunk.
+-/
+inductive TestResult (p : Prop) where
+| success : PSum Unit p → TestResult p
+| gaveUp : Nat → TestResult p
+| failure : ¬p → List String → Nat → TestResult p
+deriving Inhabited
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:97]:
```suggestion
  | success : PSum Unit p → TestResult p
  | gaveUp : Nat → TestResult p
  | failure : ¬ p → List String → Nat → TestResult p
  deriving Inhabited
```

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 8]
```diff
@@ -0,0 +1,516 @@
...
+`SlimCheck` can indicate how values relate to each other.
+It's basically a poor man's delaborator.
+-/
+class PrintableProp (p : Prop) where
+  printProp : Option String
+
+export PrintableProp (printProp)
+
+instance (priority := low) : PrintableProp p where
+  printProp := none
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:122]:
```suggestion
  printProp : String

export PrintableProp (printProp)

instance (priority := low) : PrintableProp p where
  printProp := "⋯"
```

Seems like a more robust base case to me (aside from simplifying the class).

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 9]
```diff
@@ -0,0 +1,516 @@
...
+
+/-- `Testable p` uses random examples to try to disprove `p`. -/
+class Testable (p : Prop) where
+  run {} (cfg : Configuration) (minimize : Bool) : Gen (TestResult p)
+
+abbrev NamedBinder (n : String) (p : Prop) : Prop := p
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:128]:
```suggestion
def NamedBinder (n : String) (p : Prop) : Prop := p
```
TC synthesis is supposed to see through reducible definitions, I'm not sure if we should count on this continuing to work.

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 10]
```diff
@@ -0,0 +1,516 @@
...
+
+namespace Configuration
+
+/-- A configuration with all the trace options enabled, useful for debugging. -/
+def verbose : Configuration := {
+  traceDiscarded := true,
+  traceSuccesses := true,
+  traceShrink := true,
+  traceShrinkCandidates := true
+}
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:210]:
```suggestion
def verbose : Configuration where
  traceDiscarded := true
  traceSuccesses := true
  traceShrink := true
  traceShrinkCandidates := true
```

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 11]
```diff
@@ -0,0 +1,516 @@
...
+      else 
+        pure $ ⟨x, r⟩
+    pure $ addVarInfo var finalX (· $ SampleableExt.interp finalX) finalR
+
+/-- Test a universal property about propositions -/
+instance propVarTestable {β : Prop → Prop} [∀ b : Bool, Testable (β b)] : Testable (NamedBinder var $ ∀ p : Prop, β p) where
+  run := λ cfg min =>
+    imp (λ h (b : Bool) => h b) <$> Testable.run (NamedBinder var $ ∀ b : Bool, β b) cfg min
+
+instance (priority := high) unusedVarTestable {β : Prop} [Inhabited α] [Testable β] : Testable (NamedBinder var $ ∀ x : α, β) where
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:352]:
```suggestion
instance (priority := high) unusedVarTestable [Nonempty α] [Testable β] : Testable (NamedBinder var $ ∀ x : α, β) where
```

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 12]
```diff
@@ -0,0 +1,516 @@
...
+      some $ mkApp2 (mkConst `SlimCheck.NamedBinder) (mkStrLit n) rest
+    | _ => none
+
+/-- `DecorationsOf p` is used as a hint to `mk_decorations` to specify
+that the goal should be satisfied with a proposition equivalent to `p`
+with added annotations. -/
+abbrev DecorationsOf (p : Prop) := Prop
+
+syntax "mk_decorations" : tactic
+
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:480]:
```suggestion
```

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 13]
```diff
@@ -0,0 +1,516 @@
...
+the syntax of `p` and adds `NamedBinder` around universal quantifications
+to improve error messages. This tool can be used in the declaration of a
+function as follows:
+```lean
+def foo (p : Prop) (p' : Decorations.DecorationsOf p := by mk_decorations) [Testable p'] : ...
+```
+`p` is the parameter given by the user, `p'` is a definitionally equivalent
+proposition where the quantifiers are annotated with `NamedBinder`.
+-/
+elab_rules : tactic | `(tactic| mk_decorations) => do
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:494]:
```suggestion
local elab "mk_decorations" : tactic => do
```

Or `scoped` if you want to use it from other files.

File: Mathlib/Testing/SlimCheck/Testable.lean [hunk 14]
```diff
@@ -0,0 +1,516 @@
...
+  let goal ← getMainGoal
+  let goalType ← getMVarType goal
+  if let Expr.app (Expr.const `SlimCheck.Decorations.DecorationsOf _ _) body _ := goalType then
```
Comment (gebner) [inline Mathlib/Testing/SlimCheck/Testable.lean:497]:
```suggestion
  if let Expr.app (Expr.const ``Decorations.DecorationsOf _ _) body _ := goalType then
```

**Review by gebner — COMMENTED** [review]
Please remove the trailing whitespace.

This PR will be squashed when merging.  If you'd like to have it merged as multiple commits, please open separate PRs.

Please set the PR title to the desired commit message.

**Comment by gebner** [comment]
> The PhantomFunction was introduced to avoid noncomputable instances since SizeOf is not computable but we need to store it as a field in SampleableExt so we work around this by defining a PhantomFunction which is guaranteed to be eliminated by the compiler during code generation. I do however believe that this is not the right file for it to live in?

One option (that I would suggest) is to use WellFoundedRelation instead.

Otherwise such a type should indeed go in a different file.  I'd port the `erased` type from mathlib.  Then `PhantomFunction α β` is just `Erased (α → β)`.

**Comment by gebner** [comment]
Thanks!
bors r+

**Comment by hargoniX** [comment]
This is due to the `{}`  changes in class declarations, I'll make a fix.

**Comment by hargoniX** [comment]
@gebner rebased and fixed, should compile now!.
